US07855294B2
1) 8-Aza-bicyclo[3.2.1]octan-3-one
25 g of tropinone was dissolved in 100 mL of chloroform, and 50 mL of chloroethyl chloroformate was added thereto, and stirred at room temperature for 6 hours. The reaction liquid was concentrated, and 100 mL of methanol was added thereto, and heated overnight under reflux. The reaction liquid was cooled to room temperature, and concentrated to obtain a crude product of the entitled compound.

reactant | tropinone | 25 g | CN1C2CCC1CC(=O)C2 | C8H13NO
reactant | chloroethyl chloroformate | 50 mL | ClC(=O)OCCCl | C3H4Cl2O2
solvent | chloroform | 100 mL | C(Cl)(Cl)Cl | CHCl3
product | 8-Aza-bicyclo[3.2.1]octan-3-one | C12CC(CC(CC1)N2)=O | C7H11NO
